US05523475
4-Allyl-2-fluoro-5-methoxyphenol (5.16 g, 28.3 mmol) was dissolved in EtOH (150 mL) and Pd/C (5%, 250 mg) was added. Hydrogenation for 6 h at room temperature and atmospheric pressure, addition of more Pd/C (5%, 100 mg), continued reaction for 3 h followed by removal of the catalyst and evaporation of the solvent gave 2-fluoro-5-methoxy-4-propylphenol (4.52 g) as an oil. 1H NMR (DMSO-d6): δ9.53 (s, 1H), 6.85 (d, J=11.8 Hz, 1H), 6.51 (d, J=7.7 Hz, 1H), 3.67 (s, 3H), 2.38 (t, J=7.5 Hz, 2H), 1.46 (m, J=7.5 Hz, 2H), 0.84 (t, J=7.4 Hz, 3H). 13C NMR (DMSO-d6): δ153.21, 144.84 (d, J=230 HZ), 142.70 (d, J=13 Hz), 120.41 (d, J=5 Hz), 116.46 (d, J=19 Hz), 101.25, 55.62, 30.68, 22.61, 13.71. MS (EI, 70 eV): m/z (rel. int.) 184 (M+, 69).

reactant | 4-Allyl-2-fluoro-5-methoxyphenol | 28.3 mmol, 5.16 g | C(C=C)C1=CC(=C(C=C1OC)O)F | C10H11FO2
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd/C | 250 mg | [Pd] | Pd
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-fluoro-5-methoxy-4-propylphenol | 4.52 g | FC1=C(C=C(C(=C1)CCC)OC)O | C10H13FO2
